US07855297B2
By the reaction and treatment in the same manner as in Preparation Example 11 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (5.48 g) and 4-isopropylaniline (3.90 mL) as starting materials, 5-benzyloxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (5.94 g) was obtained. melting point: 170.4° C.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 5.48 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | 4-isopropylaniline | 3.90 mL | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | 5-benzyloxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 5.94 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)NC1=CC=C(C=C1)C(C)C | C27H29NO2
